US05646173
An ozone stream (3.5 g ozone/hour) was conducted while stirring for 2 hours through a solution, cooled to -70°, of 24.6 g of (RS)-2-(2-buten-1-yl)-4-chromanone in 450 ml of anhydrous dichloromethane and 150 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 15 minutes. After the addition of 13.4 ml of dimethyl sulfide, the mixture was stirred at room temperature for 20 hours. The reaction mixture was subsequently evaporated in a vacuum. The residue was treated with 250 ml of dichloromethane and, after the addition of 40 ml of water and 40 ml of trifluoroacetic acid, stirred at room temperature for 4 hours. The mixture was subsequently poured into 100 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 70 ml of water were added, the phases were separated and the aqueous phase was extracted twice with 120 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 22.7 g (99%) of 2-(2-oxoethyl)-4-chromanone were obtained as a yellow oil which was used in the next reaction without additional purification.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3.5 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-4-chromanone | 24.6 g | C(C=CC)C1OC2=CC=CC=C2C(C1)=O | C13H14O2
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
product | 2-(2-oxoethyl)-4-chromanone | 22.7 g, 99% | O=CCC1OC2=CC=CC=C2C(C1)=O | C11H10O3
